US04510025
In 5.0 ml of pyridine was dissolved 1.7 g of 2,2,3-trimethylbicyclo[2.2.1]heptan-3,5-diol and, then, 1.2 g of thionyl chloride was added dropwise to the solution at a temperature of -5° C. to 0° C. The mixture was stirred for 2 hours, after which it was poured into water and extracted with n-hexane. The extract was washed with dilute hydrochloric acid and an aqueous solution of sodium hydrogen carbonate in that order, dried over anhydrous magnesium sulfate, and distilled to remove the hexane. The residue was subjected to silica gel column chromatography to give 0.10 g of nojigiku alcohol. The physical properties of this product were in agreement with those of the nojigiku alcohol obtained in Example 1.

reactant | 2,2,3-trimethylbicyclo[2.2.1]heptan-3,5-diol | 1.7 g | CC1(C2CC(C(C1(O)C)C2)O)C | C10H18O2
reactant | thionyl chloride | 1.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
product | nojigiku alcohol | 0.10 g | CC1([C@H]2C[C@@H](C1=C)[C@@H](C2)O)C | C10H16O
